US06518268B1
In an argon atmosphere, 5-nitrosalicylaldehyde (334 mg, 2.00 mmol) was dissolved in dimethyformamide (5 mL), and the solution was mixed with benzyl bromide (0.238 mL, 2.00 mmol) and sodium hydride (88 mg, 2.4 mmol), followed by stirring at 70° C. for 13 hours. The reaction solution was cooled with ice, and water was added, and then the mixture was extracted with ethyl acetate. The organic layer was washed with water and brine, and then dried over anhydrous sodium sulfate. The solvent was evaporated under reduced pressure, and the residue was triturated with diisopropyl ether to obtain 2-benzyloxy-5-nitrobenzaldehyde (337 mg, 66%).

reactant | 5-nitrosalicylaldehyde | 2.00 mmol, 334 mg | [N+](=O)([O-])C1=CC=C(C(C=O)=C1)O | C7H5NO4
reactant | benzyl bromide | 2.00 mmol, 0.238 mL | C(C1=CC=CC=C1)Br | C7H7Br
reactant | sodium hydride | 2.4 mmol, 88 mg | [H-].[Na+]
reactant | water | O | H2O
solvent | dimethyformamide | 5 mL | CN(C=O)C | C3H7NO
product | 2-benzyloxy-5-nitrobenzaldehyde | 337 mg, 66% | C(C1=CC=CC=C1)OC1=C(C=O)C=C(C=C1)[N+](=O)[O-] | C14H11NO4
